US05872300
34.7 g of 2-chloro-6-nitrophenyl-isopropylsulfane, 140.0 g of methanol and 1 g of Raney nickel 55, as the catalyst (water-moist), were initially introduced into a 0.3 l steel autoclave. After the air had been displaced with nitrogen and hydrogen, hydrogen was forced in at room temperature up to a pressure of 80 bar, while stirring the mixture, a slight increase in temperature already being observed. The mixture was heated to 60° C., while continuing to stir and keep the hydrogen pressure constant. After about 2 hours, the uptake of hydrogen had ended. The mixture was then cooled to room temperature, the hydrogen was let down, the catalyst was filtered off with suction and washed with methanol and the combined filtrates were concentrated. Crude yield: 29.6 g of 2-amino-6-chlorophenyl-isopropylsulfane with a purity of 99.5% (GC), corresponding to 97.5% of theory. The content of 2-isopropylmercaptoaniline formed by hydrogenating dehalogenation was only 0.1%. Furthermore, only 0.1% of impurities due to 3-chloroaniline, formed by hydrogenating desulfurization, were found.

reactant | 2-chloro-6-nitrophenyl-isopropylsulfane | 34.7 g | ClC1=C(C(=CC=C1)[N+](=O)[O-])SC(C)C | C9H10ClNO2S
reactant | methanol | 140.0 g | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 1 g | [Ni] | Ni
solvent | water | O | H2O
product | 2-isopropylmercaptoaniline | C(C)(C)SC1=C(N)C=CC=C1 | C9H13NS
